US08614226B2
A solution of 438 mg (0.734 mmol) 4-{5′-[2-(5-Chloro-2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-[3,3′]bipyridinyl-6-yl}-piperazine-1-carboxylic acid tert-butyl ester in 5 ml dioxane was treated with 6 ml of a 4 N solution of hydrochlorid acid in dioxane. The mixture was stirred for 20 minutes at room temperature. The resulting precipitate was filtered off, washed with dioxane and dried under vacuum yielding 2-(5-chloro-2-fluoro-phenyl)-4-(6′-piperazin-1-yl-[3,3′]bipyridinyl-5-yl)-[1,8]naphthyridine hydrochloride as light yellow solid; HPLC-MS: 1.66 min, [M+H] 497.

reactant | 4-{5′-[2-(5-Chloro-2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-[3,3′]bipyridinyl-6-yl}-piperazine-1-carboxylic acid tert-butyl ester | 0.734 mmol, 438 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=N1)C=1C=NC=C(C1)C1=CC(=NC2=NC=CC=C12)C1=C(C=CC(=C1)Cl)F | C33H30ClFN6O2
reactant | hydrochlorid | Cl | ClH
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 2-(5-chloro-2-fluoro-phenyl)-4-(6′-piperazin-1-yl-[3,3′]bipyridinyl-5-yl)-[1,8]naphthyridine hydrochloride | Cl.ClC=1C=CC(=C(C1)C1=NC2=NC=CC=C2C(=C1)C=1C=C(C=NC1)C=1C=NC(=CC1)N1CCNCC1)F | InChI=1S/C28H22ClFN6.ClH/c29-21-4-5-25(30)24(13-21)26-14-23(22-2-1-7-33-28(22)35-26)20-12-19(15-32-16-20)18-3-6-27(34-17-18)36-10-8-31-9-11-36;/h1-7,12-17,31H,8-11H2;1H
